US04958019
(4) Synthesis of 5-carboxy-2-hydroxymethyl-7-mercaptos-triazolo[1,5-a]pyrimidine
In 200 ml of ethanol was dissolved 12 g of 2-acetoxymethyl7-chloro-5-methoxycarbonyl-s-triazolo[1,5-a]pyrimidine under heating, and 8.36 g of thiourea was added to the solution and the mixture was stirred under reflux for 10 minutes. After cooling by allowed to stand, precipitates were collected by filteration, washed with ethanol and then dissolved in 100 ml of a 10% KOH, and the solution was stirred at room temperature for one hour. This solution was adjusted to pH 1 with 2N HCl under ice-cooling and stirring, and precipitates were collected by filtration, washed with water and then dried to obtain 8.13 g of the title compound.

reactant | 2-acetoxymethyl7-chloro-5-methoxycarbonyl-s-triazolo[1,5-a]pyrimidine | 12 g | C(C)(=O)OCC1=NN2C(N=C(C=C2Cl)C(=O)OC)=N1 | C10H9ClN4O4
reactant | thiourea | 8.36 g | NC(=S)N | CH4N2S
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | 5-carboxy-2-hydroxymethyl-7-mercaptos-triazolo[1,5-a]pyrimidine | 8.13 g | C(=O)(O)C1=NC=2N(C(=C1)S)N=C(N2)CO | C7H6N4O3S
